US07465726B2
Dimethyl-{2-[5-(3-nitrophenyl)imidazol-1-yl]ethyl}amine
A stirred mixture of 3-[2-(3-nitrophenyl)-2-oxoethyl]-3H-quinazolin-4-one (2.00 g, 6.47 mmol), N,N-dimethyl-1,2-ethanediamine (2.28 g, 25.9 mmol), and p-toluenesulfonic acid (2.23 g, 12.9 mmol) in xylenes (150 mL) was refluxed for 48 h. After cooling to rt, water (20 mL) and sat. NaHCO3 (aq) (15 mL) were added. Layers were separated, and the aqueous phase was extracted with EtOAc (3×50 mL). The combined organic phases were dried over MgSO4, filtered, concentrated, and purified by silica gel chromatography (8% MeOH in CH2Cl2) to afford the desired product. 1H-NMR (CD3OD, 400 MHz): δ=2.15 (s, 6H), 2.54 (t, J=7.2 Hz, 2H), 4.22 (t, J=6.8 Hz, 2H), 7.15 (d, J=1.2 Hz, 1H), 7.74 (t, J=8.0 Hz, 1H), 7.89 (dt, J=2.4, 7.6 Hz, 1H), 7.90 (s, 1H), 8.24-8.26 (m, 1H), 8.30 (s, 1H). MS (ES+): m/z 261.24 [MH+]. HPLC: tR=0.49 and 0.71 min (ZQ2000, polar—5 min).

reactant | 3-[2-(3-nitrophenyl)-2-oxoethyl]-3H-quinazolin-4-one | 6.47 mmol, 2.00 g | [N+](=O)([O-])C=1C=C(C=CC1)C(CN1C=NC2=CC=CC=C2C1=O)=O | C16H11N3O4
reactant | N,N-dimethyl-1,2-ethanediamine | 25.9 mmol, 2.28 g | CN(CCN)C | C4H12N2
reactant | p-toluenesulfonic acid | 12.9 mmol, 2.23 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | water | 20 mL | O | H2O
product | Dimethyl-{2-[5-(3-nitrophenyl)imidazol-1-yl]ethyl}amine | CN(CCN1C=NC=C1C1=CC(=CC=C1)[N+](=O)[O-])C | C13H16N4O2
